US07855290B2
4-(4-Amino-2-fluorophenoxy)pyridine-2-carboxamide
4-Amino-2-fluorophenol (9.63 g) was dissolved in dimethyl sulfoxide (100 ml) under a nitrogen atmosphere. Potassium tert-butoxide (9.07 g) was added at room temperature, followed by stirring for 15 min. 4-Chloropyridine-2-carboxamide (7.9 g) was added thereto, followed by stirring at 80° C. under a nitrogen atmosphere for 1 hr. The reaction mixture was allowed to cool down to room temperature. To the reaction mixture was added a 1N aqueous solution of sodium hydroxide (100 ml), then water (100 ml), followed by stirring for 5 hr. The precipitated solid was collected by filtration with suction, and washed with water (50 ml, 4 times). The resultant solid was hot air-dried at 60° C. for 2 days to provide the titled compound as pale brown powder (10.39 g, 83%).

reactant | 4-Amino-2-fluorophenol | 9.63 g | NC1=CC(=C(C=C1)O)F | C6H6FNO
reactant | Potassium tert-butoxide | 9.07 g | CC(C)([O-])C.[K+]
reactant | 4-Chloropyridine-2-carboxamide | 7.9 g | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
product | 4-(4-Amino-2-fluorophenoxy)pyridine-2-carboxamide | 10.39 g, 83% | NC1=CC(=C(OC2=CC(=NC=C2)C(=O)N)C=C1)F | C12H10FN3O2
